US04853469
Preparation of ethyl 4-hydroxy-2-mercapto-6,7,8-trifluoroquinoline-3-carboxylate [compound (XIV) in which R4 is ethyl]
Ethyl 4-hydroxy-6,7,8-trifluoro-2-(p-methoxybenzylthio)quinoline-3-carboxylate (59.9 g) was added to a mixture of trifluoroacetic acid (500 g), trifluoromethanesulfonic acid (100 g) and anisole (92.5 g) at -23° to -20° C. with stirring over a period of 15 minutes. The mixture was stirred at -20° to -15° C. for 30 minutes and then at room temperature for 1.5 hour. After the reaction mixture was concentrated under reduced pressure, a piece of ice was added to the concentrate and the mixture was made alkaline with 10% aqueous sodium hydroxide. After insoluble materials were removed by filtration, the filtrate was washed with ether and made strongly acidic with concd. hydrochloric acid. The resulting powder was filtered to give the title compound (33 g), which was recrystallized from ethanol to give yellow crystals, m.p. 190° C. (dec.).

reactant | Ethyl 4-hydroxy-6,7,8-trifluoro-2-(p-methoxybenzylthio)quinoline-3-carboxylate | 59.9 g | OC1=C(C(=NC2=C(C(=C(C=C12)F)F)F)SCC1=CC=C(C=C1)OC)C(=O)OCC | C20H16F3NO4S
reactant | trifluoroacetic acid | 500 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoromethanesulfonic acid | 100 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | anisole | 92.5 g | C1(=CC=CC=C1)OC | C7H8O
product | ethyl 4-hydroxy-2-mercapto-6,7,8-trifluoroquinoline-3-carboxylate | 33 g | OC1=C(C(=NC2=C(C(=C(C=C12)F)F)F)S)C(=O)OCC | C12H8F3NO3S
